US08895769B2
A solution of ethyl cyanoacetate (5.34 g, 47.3 mmol) in dimethyl sulfoxide (DMSO, 20 ml) was added portionwise with sodium ethoxide (3.21 g, 47.2 mmol), and the mixture was stirred at room temperature for 4 hours with occasionally cooling the mixture on ice when temperature elevation was observed. The reaction mixture was put on an ice bath, and added dropwise with a solution of iodomethyltrimethylsilane (7.78 g, 36.4 mmol) in DMSO (5 ml), and the mixture was stirred at room temperature for 24 hours. The reaction mixture was added with saturated aqueous ammonium chloride, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate, and the solvent was evaporated. The residue was purified by silica gel chromatography [hexane/ethyl acetate (49:1)] to obtain ethyl 3-(trimethylsilyl)-2-cyanopropionate (6.06 g, 65%) mentioned in the title as colorless oil.

reactant | ethyl cyanoacetate | 47.3 mmol, 5.34 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium ethoxide | 47.2 mmol, 3.21 g | [O-]CC.[Na+]
reactant | iodomethyltrimethylsilane | 36.4 mmol, 7.78 g | IC[Si](C)(C)C | C4H11ISi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | ethyl 3-(trimethylsilyl)-2-cyanopropionate | 6.06 g, 65% | C[Si](CC(C(=O)OCC)C#N)(C)C | C9H17NO2Si
